US07022689B2
To a stirred solution of 0.15 g of tert-butyl [2-(2-amino-4-isopropylphenyl)ethyl]carbamate and 0.087 mL of pyridine in 2 mL of dichloromethane was added 0.072 mL of ethyl chlorooxoacetate under ice-cooling, and the mixture was stirred at room temperature for 4 hours. To the reaction mixture were added water and ethyl acetate, and the mixture was separated. The aqueous layer was extracted with ethyl acetate, and the organic layers were combined. After being washed with water and brine successively, the organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to give 0.23 g of ethyl [2-(2-tert-butoxy-carbonylaminoethyl)-5-isopropylphenyl]oxalamate.

reactant | tert-butyl [2-(2-amino-4-isopropylphenyl)ethyl]carbamate | 0.15 g | NC1=C(C=CC(=C1)C(C)C)CCNC(OC(C)(C)C)=O | C16H26N2O2
reactant | pyridine | 0.087 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl chlorooxoacetate | 0.072 mL | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | water | O | H2O
reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl [2-(2-tert-butoxy-carbonylaminoethyl)-5-isopropylphenyl]oxalamate | 0.23 g | C(C)(C)(C)OC(CC1=C(C=C(C=C1)C(C)C)NC(C(=O)OCC)=O)N=C=O | C20H28N2O5
